US06906072B1
Reference Example 27 4-methyl-3-phenylhexanal
Under a nitrogen atmosphere, a n-butyllithium/tetrahydrofuran solution (1.53 M, 1.2 mL) was added to a tetrahydrofuran solution of (methoxymethyl) triphenylphosphonium chloride (627 mg) at −78° C., and then the temperature of the mixture was raised to 0° C. After 20 minutes, the outer temperature was lowered to −78° C., and then 4-methyl-3-phenyl-pentanal (200 mg) was added thereto together with tetrahydrofuran (4 mL). After 45 minutes, the temperature of the mixture was returned to room temperature, and the mixture was further stirred for 20 minutes. The organic layer was separated by adding diethyl ether and an aqueous saturated ammonium chloride thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the mixture was evaporated, to give the title compound as a colorless oil (200 mg). The resulting compound was dissolved in isopropanol (2 mL)/water (2 mL), p-toluenesulfonic acid (6 mg) was added thereto, and then the reaction was carried outfor 8.5 hours under refluxing. The organic layer was separated by adding diethyl ether and an aqueous saturated ammonium chloride thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filteringoff thedryingagent, themixturewasevaporated. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate system), to give the title compound as a colorless oil (103 mg, 59%, 3 steps).

reactant | n-butyllithium tetrahydrofuran | 1.53 M, 1.2 mL | C(CCC)[Li].O1CCCC1
reactant | (methoxymethyl) triphenylphosphonium chloride | 627 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-methyl-3-phenyl-pentanal | 200 mg | CC(C(CC=O)C1=CC=CC=C1)C | C12H16O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-methyl-3-phenylhexanal | 200 mg | CC(C(CC=O)C1=CC=CC=C1)CC | C13H18O
